US08252935B2
b) 4-Methyl-2-{5-[1-(3-methyl-3H-benzotriazol-5-ylmethyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid
To compound 50a, 4-Methyl-2-{5-[1-(3-methyl-3H-benzotriazol-5-ylmethyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester (59.0 mg, 0.10 mmol) in EtOH (5.0 ml) was added 2M KOH (0.50 ml, 1.0 mmol). The reaction was heated to 78° C. for 2 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (32 mg, 53%). 1H NMR (400 MHz, MeOD) δ ppm 0.89-0.97 (m, 6 H) 1.49 (dt, J=13.39, 6.63 Hz, 1 H) 1.62-1.70 (m, J=13.72, 7.09, 6.94, 2.32 Hz, 1 H) 1.90-2.02 (m, 3 H) 2.11 (s, 2 H) 3.11-3.20 (m, 2 H) 3.30-3.50 (m, 1H) 3.57 (s, 2 H) 4.75 (t, J=7.70 Hz, 1 H) 4.33-4.37 (m, 3 H) 4.53-4.62 (m, 2 H) 7.32 (s, 1 H) 7.50 (s, 1 H) 7.56 (s, 1 H) 7.72-7.81 (m, 5 H) 7.90 (d, J=8.56 Hz, 1 H) 8.23 (s, 1 H) Calcd for C32H35F3NO4 (M+H) 564.64, Found 565.3.

reactant | 4-Methyl-2-{5-[1-(3-methyl-3H-benzotriazol-5-ylmethyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | 0.10 mmol, 59.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=C(N=NN2C)C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C34H39F3N4O2
reactant | KOH | 1.0 mmol, 2M, 0.50 ml | [OH-].[K+]
solvent | EtOH | 5.0 ml | CCO | C2H6O
product | 4-Methyl-2-{5-[1-(3-methyl-3H-benzotriazol-5-ylmethyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=C(N=NN2C)C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C32H35F3N4O2
